US05070089
In a nitrogen atmosphere, 5.615 g (30.08 mmol.) of 3,4-dimethoxybenzyl chloride, 5.57 g (30.08 mmol., purity 95%) of methyl 1-piperazinecarbodithioate, 3.19 g (30.08 mmol.) of anhydrous sodium carbonate and 50 ml of ethanol were mixed and refluxed under heating for 5.5 hours. The solvent was distilled off under reduced pressure. To the residue were added 20 ml of dichloromethane and 20 ml of water. The organic solvent portion was taken out and washed with 30 ml of 1-N hydrochloric acid. To the organic portion was added 1-N aqueous sodium hydroxide solution. The organic solvent portion was again taken out and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. To the residue was added 20 ml of ethanol. Precipitated crystals were collected by filtration and washed with ethanol to give 1.465 g of methyl 4-(3,4-dimethoxybenzyl)-1-piperazinecarbodithioate, yield 14.9%.

reactant | 3,4-dimethoxybenzyl chloride | 30.08 mmol, 5.615 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | methyl 1-piperazinecarbodithioate | 30.08 mmol, 5.57 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 30.08 mmol, 3.19 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | methyl 4-(3,4-dimethoxybenzyl)-1-piperazinecarbodithioate | 1.465 g, yield 14.9% | COC=1C=C(CN2CCN(CC2)C(=S)SC)C=CC1OC | C15H22N2O2S2
